US06103905
To a 10 mL pear-shaped flask was added 2-(3-indolyl)-4-quinolinecarboxylic acid (1 mmol) and 2 mL of acetonitrile followed by a solution of diazomethane (5 mmol) in 2 mL of ether. The reaction mixture was stirred for 1 h and the solvent removed in vacuo to give methyl-2-(3-indolyl)-4-quinolinecarboxylate (95-100% yield).

reactant | 2-(3-indolyl)-4-quinolinecarboxylic acid | 1 mmol | N1C=C(C2=CC=CC=C12)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C18H12N2O2
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
reactant | diazomethane | 5 mmol | [N+](=[N-])=C | CH2N2
solvent | ether | 2 mL | CCOCC | C4H10O
product | methyl-2-(3-indolyl)-4-quinolinecarboxylate | 95-100% yield | COC(=O)C1=CC(=NC2=CC=CC=C12)C1=CNC2=CC=CC=C12 | C19H14N2O2
